US08835420B2
Preparation x47: 1-(1-Methyl-6-(2-oxa-6-azaspiro[3,3]heptan-6-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine
Methylmagnesium bromide (1.56 mL, 2.18 mmol) was added slowly to a stirred solution of 1-methyl-6-(2-oxa-6-azaspiro[3.3]heptan-6-yl)-1H-pyrrolo[3,2-b]pyridine-5-carbonitrile (222 mg, 0.873 mmol) in THF (20 mL). The reaction was stirred at 40° C. for 1.5 hours, then cooled to 0° C. and quenched with MeOH (10 mL). After 10 minutes, sodium tetrahydroborate (83 mg, 2.18 mmol) was added. The reaction mixture was stirred for 20 minutes. Water (1 mL) was added and the reaction mixture was stirred for an additional 10 minutes. The reaction mixture was dried over MgSO4, filtered through Celite, and concentrated. The crude product was purified by basic silica column chromatography (3-5% MeOH in DCM) to give the title compound as a clear oil (111 mg, 47%). 1H NMR (500 MHz, CD3OD) δ ppm 7.28 (d, 1H, J=3.5 Hz), 7.14 (s, 1H), 6.47 (d, 1H, J=3.5 Hz), 4.89 (s, 4H), 4.33 (q, 1H, J=7.0 Hz), 4.10 (qAB, 4H, J=35.5, 7.5 Hz), 3.36 (s, 3H), 1.43 (d, 3H, J=7.0 Hz). ESI-MS m/z [M+H]+ calc'd for C15H20F4O, 273; found 273.

reactant | Methylmagnesium bromide | 2.18 mmol, 1.56 mL | C[Mg]Br
reactant | 1-methyl-6-(2-oxa-6-azaspiro[3.3]heptan-6-yl)-1H-pyrrolo[3,2-b]pyridine-5-carbonitrile | 0.873 mmol, 222 mg | CN1C=CC2=NC(=C(C=C21)N2CC1(COC1)C2)C#N | C14H14N4O
reactant | sodium tetrahydroborate | 2.18 mmol, 83 mg | [BH4-].[Na+]
reactant | Water | 1 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-(1-Methyl-6-(2-oxa-6-azaspiro[3,3]heptan-6-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine | 111 mg, 47% | CN1C=CC2=NC(=C(C=C21)N2CC1(COC1)C2)C(C)N | C15H20N4O
